US07524951B2
2-Aminomethyl-5-bromothiazole hydrochloride (350 g) was dissolved in 7 L of ethyl formate. To this solution were added 296 ml of a 28% methanol solution of sodium methoxide and 173 ml of a formic acid solution. The mixture was then stirred at an internal temperature of 48° C. for 5 hr. The solvent was removed by evaporation under the reduced pressure. When precipitate occurred, ethanol was added to dissolve the precipitate. The solvent was again removed by evaporation under the reduced pressure until crystal was formed. The solution was stirred under ice cooling overnight. The precipitated crystal was then collected by filtration, was then washed with cold ethanol and hexane, and was dried under the reduced pressure to give 189 g of 5-bromo-2-formylaminomethylthiazole. Further, the filtrate was concentrated, and the concentrate was crystallized from ethanol to give 58 g of secondary crystal.

reactant | 2-Aminomethyl-5-bromothiazole hydrochloride | 350 g | Cl.NCC=1SC(=CN1)Br
reactant | methanol | CO | CH4O
reactant | sodium methoxide | C[O-].[Na+]
reactant | formic acid | 173 ml | C(=O)O | CH2O2
solvent | ethyl formate | 7 L | C(=O)OCC | C3H6O2
product | 5-bromo-2-formylaminomethylthiazole | 189 g | BrC1=CN=C(S1)CNC=O | C5H5BrN2OS
